US06294573B1
methyl 2-(2-thienylthio)acetate
To a solution of thiophene-2-thiol (1.2 g, 10.3 mmol) in anhydrous DMF (30 mL) was added cesium carbonate (3.9 g, 12 mmol) and the resulting suspension was stirred for 15 min at ambient temperature, then treated with methyl bromoacetate (1.53 g, 10 mmol). The purple suspension was stirred for 1 h, then poured into water (30 mL) and extracted twice with 300 mL EtOAc. The combined organic extracts were washed with brine, dried, filtered, concentrated and the residue was purified via column chromatography eluting with 10% EtOAc/Hexanes to give 1.48 g (79%) of the title compound.

reactant | thiophene-2-thiol | 10.3 mmol, 1.2 g | S1C(=CC=C1)S | C4H4S2
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 10 mmol, 1.53 g | BrCC(=O)OC | C3H5BrO2
reactant | water | 30 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-thienylthio)acetate | 1.48 g, 79% | S1C(=CC=C1)SCC(=O)OC | C7H8O2S2
